US05021432
6-Cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran (8.0 g) and tert-butyl carbazate (6.3 g) were dissolved in 40 ml of ethanol and the solution was heated under reflux for 28 hours. The resulting ethanol was distilled off and the residue was recrystallized from 80 ml of hexane and 8 ml of ethanol to yield 8.7 g of trans-4-(2-tert-butoxycarbonyl- hydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol as white crystals, m.p. 136°-138° C.

reactant | 6-Cyano-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 8.0 g | C(#N)C=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C12H11NO2
reactant | tert-butyl carbazate | 6.3 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | trans-4-(2-tert-butoxycarbonyl- hydrazino)-6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-3-ol | 8.7 g | C(C)(C)(C)OC(=O)NN[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C17H23N3O4
